US05162334
B. 17-Ethyl-1-hydroxy-12-[2'-(3"-sec-butenyloxy-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg in 3 ml 33% methylene chloride in cyclohexane), sec-butenyl trichloroacetimidate (62 μl neat) is added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (2 μl neat) is then added slowly via syringe and the mixture stirred at room temperature. After 15 minutes the reaction is quenched by the addition of saturated sodiumbicarbonate and extracted with ethyl acetate (3×8 ml). The combined organics are washed with brine and dried over magnesium sulfate. Purification of the concentrate by preparative TLC on silica gel the title compounds.

reactant | 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 3 ml, 150 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)=O | C42H67NO11
reactant | sec-butenyl trichloroacetimidate | 62 μl | ClC(C(OC(=C)CC)=N)(Cl)Cl | C6H8Cl3NO
reactant | Trifluoromethanesulfonic acid | 2 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 17-Ethyl-1-hydroxy-12-[2'-(3"-sec-butenyloxy-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC(=C)CC)C)C)=O | C46H73NO11
